US04727081
N-Cyclohexyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarbothioamide
The compound is prepared by a method analogous to that of Example 5 from N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carbothioamide and cyclohexylisothiocyanate. The analytical values are summarized in Table I.

reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carbothioamide | N1(CCCCC1)CC=1C=C(OCCCNC(=S)NN)C=CC1 | C16H26N4OS
reactant | cyclohexylisothiocyanate | C1(CCCCC1)N=C=S | C7H11NS
product | N-Cyclohexyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarbothioamide | C1(CCCCC1)NC(=S)NNC(NCCCOC1=CC(=CC=C1)CN1CCCCC1)=S | C23H37N5OS2
